US09126993B2
To a stirred suspension of 4-fluorobenzamide (70.00 g, 503.1 mmol) in toluene (900 mL) was added chlorocarbonyl sulfenyl chloride (83.0 mL, 1.00 mol). The mixture was heated overnight at 60° C. and concentrated. The resulting tan solid was triturated with methylene chloride (200 mL), collected by suction filtration and rinsed with additional methylene chloride (4×70 mL). The crude product was impregnated onto silica (100 g) and chromatographed in a large filter funnel dry loaded with silica using a hexane/ethyl acetate gradient. The product 5(4-fluorophenyl)-1,3,4-oxathiazol-2-one was afforded as an off-white solid (55.98 g, 56%).

reactant | 4-fluorobenzamide | 503.1 mmol, 70.00 g | FC1=CC=C(C(=O)N)C=C1 | C7H6FNO
reactant | chlorocarbonyl sulfenyl chloride | 1.00 mol, 83.0 mL | ClC(=O)SCl | CCl2OS
solvent | toluene | 900 mL | C1(=CC=CC=C1)C | C7H8
product | 5(4-fluorophenyl)-1,3,4-oxathiazol-2-one | FC1=CC=C(C=C1)C1=NSC(O1)=O | C8H4FNO2S
